** sch_path: /workspace/analog/tests/8T_open_tb.sch
**.subckt 8T_open_tb vdd vss wl q qb a rbl wlb blb qin qbin
*.ipin vdd
*.ipin vss
*.ipin wl
*.ipin q
*.ipin qb
*.ipin a
*.ipin rbl
*.ipin wlb
*.ipin blb
*.ipin qin
*.ipin qbin
x1 vdd wlb blb vss wl a qin q qb rbl qbin 8T_03v3
**** begin user architecture code

.include /workspace/analog/designs/params_6T.spice
.include /workspace/analog/designs/params_8T.spice


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical

**** end user architecture code
**.ends

* expanding   symbol:  analog/designs/8T_03v3.sym # of pins=11
** sym_path: /workspace/analog/designs/8T_03v3.sym
** sch_path: /workspace/analog/designs/8T_03v3.sch
.subckt 8T_03v3 VDD WBL WBLB VSS WL A QIN Q QB RBL QBIN
*.ipin A
*.ipin RBL
*.ipin VSS
*.ipin VDD
*.ipin WL
*.ipin WBL
*.ipin WBLB
*.ipin QBIN
*.ipin QIN
*.opin Q
*.opin QB
XAX4 net1 Q vss VSS nfet_03v3 L='L_M1' W='W_M1' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XAX3 RBL A net1 VSS nfet_03v3 L='L_M2' W='W_M2' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XPD1 QB QBIN VSS VSS nfet_03v3 L='L_PD' W='W_PD' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XPU1 QB QBIN VDD VDD pfet_03v3 L='L_PU' W='W_PU' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XAX1 WBLB WL QB VSS nfet_03v3 L='L_AX' W='W_AX' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XPU2 Q QIN VDD VDD pfet_03v3 L='L_PU' W='W_PU' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XPD2 Q QIN VSS VSS nfet_03v3 L='L_PD' W='W_PD' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XAX2 WBL WL Q VSS nfet_03v3 L='L_AX' W='W_AX' nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
.ends

.end
